US08877934B2
Step B: N-(2-Methoxy-4-quinolyl)ethane-1,2-diamine
4-Chloro-2-methoxy-quinoline (484 mg, 2.5 mmol) and 1,2-diaminoethan (751 mg, 12.5 mmol) were mixed with 1-methoxy-2-propanol and stirred at 110° C. for 24 hours. The mixture was evaporated to dryness and the residue was purified by column chromatography (pre-packed silica column, gradient of ethyl acetate/methanol each containing 1% triethylamine). 0.324 g were obtained (1.49 mmol; 60%). MS (APCI) m/z=218.0 [M+H]+.

reactant | 4-Chloro-2-methoxy-quinoline | 2.5 mmol, 484 mg | ClC1=CC(=NC2=CC=CC=C12)OC | C10H8ClNO
reactant | 1,2-diaminoethan | 12.5 mmol, 751 mg | NCCN | C2H8N2
reactant | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
product | N-(2-Methoxy-4-quinolyl)ethane-1,2-diamine | COC1=NC2=CC=CC=C2C(=C1)NCCN | C12H15N3O
